US05935958
6-Hydroxytetralone (31 mmol) was dissolved in dry DMF (50 mL), chilled in an ice/water bath and blanketed with a stream of nitrogen. NaH (60% in mineral oil, 31 mmol) was added slowly and in portions. Once gas evolution ceased, 2-chloropyrimidine (31 mmol) was added, the ice bath was removed and the solution heated at 100° C. for 1.5 hours. It was then cooled to room temperature and the solvent was removed in vacuo. The residue was treated with water and CH2Cl2 (200 mL each). Evaporation of the organic layer yielded crude material which was purified by flash chromatography (1:1 hexane:EtOAc) to afford 6-[(2-pyrimidinyl)oxyl-tetralone as a light yellow powder.

reactant | 6-Hydroxytetralone | 31 mmol | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | NaH | 31 mmol | [H-].[Na+]
reactant | 2-chloropyrimidine | 31 mmol | ClC1=NC=CC=N1 | C4H3ClN2
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (2-pyrimidinyl)oxyl-tetralone | N1=C(N=CC=C1)OC1C(C2=CC=CC=C2CC1)=O | C14H12N2O2
